US06017675
Analogously to the preparation of Example 3.4, 9.6 g (0.5 mol) of α-hydroxyimino-4-methylthiobenzyl cyanide are reacted, in the presence of 7.6 g (0.075 mol) of triethylamine, with 7.85 g (0.055 mol) of 2-propanesulfonyl chloride. After working-up, the crude product is recrystallised from acetic acid acetate/hexane. 11.1 g (83%) of α-(2-propylsulfonyloxyimino)-4-methylthiobenzyl cyanide are obtained in the form of beige crystals having a melting point of 83-87° C. The 1H-NMR spectrum of the compound shows that it is a pure stereoisomer. The UV spectrum (acetonitrile) of the substance shows a broad absorption band with a maximum at 350 nm (ε=14660) that extends to 435 nm. Elemental analysis: C12H14N2O3S2 (266.32)

reactant | α-hydroxyimino-4-methylthiobenzyl cyanide | 0.5 mol, 9.6 g | ON=C(C1=CC=C(C=C1)SC)C#N | C9H8N2OS
reactant | triethylamine | 0.075 mol, 7.6 g | C(C)N(CC)CC | C6H15N
reactant | 2-propanesulfonyl chloride | 0.055 mol, 7.85 g | CC(C)S(=O)(=O)Cl | C3H7ClO2S
product | α-(2-propylsulfonyloxyimino)-4-methylthiobenzyl cyanide | 11.1 g, 83% | CC(C)S(=O)(=O)ON=C(C1=CC=C(C=C1)SC)C#N | C12H14N2O3S2
